US07943613B2
(4-Ethynylphenyl)methanol (200 mg, 1.51 mmol) and diisopropylamine (360 mg, 3.56 mmol) were added to a solution of methyl (Z)-[4-[3-(4-bromophenyl)-3-(4-iodophenyl)allyloxy]-2-methylphenoxy]acetate (445 mg, 0.75 mmol) in anhydrous tetrahydrofuran (15 mL). The solution was degassed and bis(triphenylphosphine)palladium(II) dichloride (30 mg, 0.042 mmol) and copper(I) iodide (15 mg, 0.078 mmol) were added. The reaction solution was degassed again and then stirred under inert atmosphere at ambient temperature over night. The reaction mixture was filtered through a paddle of silica gel; the paddle was thoroughly washed with ethyl acetate (4×20 mL) and the combined filtrates were concentrated in vacuo. The residue was purified by column chromatography (silica gel Fluka 60, dichloromethane/methanol 98:2) yielding methyl (E)-[4-[3-(4-bromophenyl)-3-[4-[4-(hydroxymethyl)phenylethynyl]phenyl]allyloxy]-2-methylphenoxy]acetate.

reactant | (4-Ethynylphenyl)methanol | 1.51 mmol, 200 mg | C(#C)C1=CC=C(C=C1)CO | C9H8O
reactant | diisopropylamine | 3.56 mmol, 360 mg | C(C)(C)NC(C)C | C6H15N
reactant | methyl (Z)-[4-[3-(4-bromophenyl)-3-(4-iodophenyl)allyloxy]-2-methylphenoxy]acetate | 0.75 mmol, 445 mg | BrC1=CC=C(C=C1)/C(=C/COC1=CC(=C(OCC(=O)OC)C=C1)C)/C1=CC=C(C=C1)I | C25H22BrIO4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.042 mmol, 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.078 mmol, 15 mg | [Cu]I
product | methyl (E)-[4-[3-(4-bromophenyl)-3-[4-[4-(hydroxymethyl)phenylethynyl]phenyl]allyloxy]-2-methylphenoxy]acetate | BrC1=CC=C(C=C1)/C(=C/COC1=CC(=C(OCC(=O)OC)C=C1)C)/C1=CC=C(C=C1)C#CC1=CC=C(C=C1)CO | C34H29BrO5
